US08541575B2
4-[1-(4-methoxybenzyl)-3-(3-nitrophenyl)-1H-pyrazol-4-yl]pyrimidin-2-amine
450 mg (1.1 mmol) of (2E)-3-(dimethylamino)-1-[1-(4-methoxybenzyl)-3-(3-nitrophenyl)-1H-pyrazol-4-yl]prop-2-en-1-one were dissolved in 10 ml of dry dimethylformamide and 1.2 g (6.66 mmol) of guanidine carbonate and 910 mg (6.66 mmol) of potassium carbonate were added. After 16 hours at 120° C. the solvent was removed in vacuo and the residue taken up with dichloromethane and washed with water. The organic phase was then dried over sodium to sulphate and evaporated. The crude was finally purified by flash-chromatography on a silica gel column (CH2Cl2-CH3COCH3 9/1), giving 300 mg (68%) of the title compound.

reactant | (2E)-3-(dimethylamino)-1-[1-(4-methoxybenzyl)-3-(3-nitrophenyl)-1H-pyrazol-4-yl]prop-2-en-1-one | 1.1 mmol, 450 mg | CN(/C=C/C(=O)C=1C(=NN(C1)CC1=CC=C(C=C1)OC)C1=CC(=CC=C1)[N+](=O)[O-])C | C22H22N4O4
reactant | guanidine carbonate | 6.66 mmol, 1.2 g | C(O)(O)=O.NC(=N)N
reactant | potassium carbonate | 6.66 mmol, 910 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 4-[1-(4-methoxybenzyl)-3-(3-nitrophenyl)-1H-pyrazol-4-yl]pyrimidin-2-amine | 300 mg, 68% | COC1=CC=C(CN2N=C(C(=C2)C2=NC(=NC=C2)N)C2=CC(=CC=C2)[N+](=O)[O-])C=C1 | C21H18N6O3
